US09447054B2
22 mg (0.0541 mmol) of 5-nitro-2-(3′,4′,5′-trimethoxy-[1,1′-biphenyl]-4-yl)benzo[d]oxazol e was dissolved in methanol, and then, 10% Pd/C was added thereto under hydrogen gas atmosphere. The mixed solution was stirred for 4 hours, and ethyl acetate was added thereto to filter with a celite pad. The filtered solution was concentrated under reduced pressure. Afterwards, the reaction solution was subjected to a silica gel column chromatography (ethyl acetate/normal-hexane at a volume ratio of 1:1) to obtain 15.2 mg (yield=74.6%) of 2-(3′,4′,5′-trimethoxy-[1,1′-biphenyl]-4-yl)benzo[d]oxazole-5-amine (Derivative #7).

reactant | 5-nitro-2-(3′,4′,5′-trimethoxy-[1,1′-biphenyl]-4-yl)benzo[d]oxazol e | 0.0541 mmol, 22 mg | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)C1 | C22H18N2O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(3′,4′,5′-trimethoxy-[1,1′-biphenyl]-4-yl)benzo[d]oxazole-5-amine | 15.2 mg, yield=74.6% | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C22H20N2O4
